US05028606
A mixture of 15.5 parts of 5-(bromomethyl)quinoxaline, 23.5 parts of 1H-imidazole and 160 parts of acetonitrile was stirred for 1.5 hours at reflux temperature. The reaction mixture was evaporated and the residue was taken up in water. The product was extracted three times with 65 parts of dichloromethane. The combined extracts were dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of dichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from a mixture of 2-propanone and 2,2'-oxybispropane. The product was filtered off and dried, yielding 3 parts (20.5%) of 5-(1H-imidazol-1-yl-methyl)quinoxaline; mp. 121.2° C. (comp. 41).

reactant | 5-(bromomethyl)quinoxaline | BrCC1=C2N=CC=NC2=CC=C1 | C9H7BrN2
reactant | 1H-imidazole | N1C=NC=C1 | C3H4N2
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-(1H-imidazol-1-yl-methyl)quinoxaline | 20.5% | N1(C=NC=C1)CC1=C2N=CC=NC2=CC=C1 | C12H10N4
